US07326791B2
N-[(1S)-3-(benzyloxycarbonylamino)-1-(5-chloro-1H-benzimidazol-2-yl)propyl]-3-methyl-4-(2,5-dihydropyrrol-1-ylcarbonyl)benzamide
Prepared analogously to Example 1g from 3-methyl-4-(2,5-dihydropyrrol-1-ylcarbonyl)benzoic acid, TBTU, diisopropylethylamine and (1S)-3-(benzyloxycarbonylamino)-1-(5-chloro-1H-benzimidazol-2-yl)propylamine in dimethylformamide. Yield: 100%; Rf value: 0.50 (silica gel; dichloromethane/ethanol=9:1); C31H30ClN5O4 (572.06); mass spectrum: (M+H)+=572/574 (chlorine isotope).

reactant | 3-methyl-4-(2,5-dihydropyrrol-1-ylcarbonyl)benzoic acid | CC=1C=C(C(=O)O)C=CC1C(=O)N1CC=CC1 | C13H13NO3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (1S)-3-(benzyloxycarbonylamino)-1-(5-chloro-1H-benzimidazol-2-yl)propylamine | C(C1=CC=CC=C1)OC(=O)NCC[C@@H](C1=NC2=C(N1)C=CC(=C2)Cl)N | C18H19ClN4O2
reactant | chlorine | ClCl | Cl2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | N-[(1S)-3-(benzyloxycarbonylamino)-1-(5-chloro-1H-benzimidazol-2-yl)propyl]-3-methyl-4-(2,5-dihydropyrrol-1-ylcarbonyl)benzamide | Yield: 100% | C(C1=CC=CC=C1)OC(=O)NCC[C@@H](C1=NC2=C(N1)C=CC(=C2)Cl)NC(C2=CC(=C(C=C2)C(=O)N2CC=CC2)C)=O | C31H30ClN5O4
